US06759554B2
N-(3,5-Dimethylphenyl)benzophenone Hydrazone
An oven-dried resealable Schlenk tube was charged with CuI (2.0 mg, 0.0105 mmol, 1.0 mol %), benzophenone hydrazone (245 mg, 1.25 mmol), sodium tert-butoxide (145 mg, 1.51 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (13 μL, 0.108 mmol, 11 mol %), dodecane (235 μL), 5-iodo-m-xylene (150 μL, 1.04 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting dark brown suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of hexane-ethyl acetate 5:1. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 40:1; 15 mL fractions). Fractions 10-12 provided 251 mg (80% yield) of the product as a bright yellow solid. The 1H NMR spectrum was in accord with that reported by Buchwald et al. Wagaw, S.; Yang, B. H.; Buchwald, S. L. J. Am. Chem. Soc. 1999, 44, 10251.

reactant | benzophenone hydrazone | 1.25 mmol, 245 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | sodium tert-butoxide | 1.51 mmol, 145 mg | CC(C)([O-])C.[Na+]
reactant | trans-1,2-Cyclohexanediamine | 0.108 mmol, 13 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | dodecane | 235 μL | CCCCCCCCCCCC | C12H26
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
catalyst | CuI | 0.0105 mmol, 2.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-(3,5-Dimethylphenyl)benzophenone Hydrazone | 251 mg, 80% yield | CC=1C=C(C=C(C1)C)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20N2
